US07622583B2
5-Chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carboxylic acid N-methyl-N-phenylamide (132 mg, 0.24 mmol) was magnetically stirred in water (1.0 mL) and 4N HCl in dioxane (2.5 mL) and heated at 85° C. (oil bath) for 7 h. LCMS indicated complete reaction; the reaction was concentrated and the residue was neutralized (pH 7) with aqueous sodium bicarbonate and the aqueous layer was extracted with EtOAc (3×80 mL). The extracts were dried (MgSO4), filtered, and chromatographed on silica gel using ethyl acetate-hexane gradient (0:100 to 50:50) to provide 5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carboxylic acid N-methyl-N-phenylamide. MS m/z: 504.1 (M+H).

reactant | 5-Chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carboxylic acid N-methyl-N-phenylamide | 0.24 mmol, 132 mg | CN(C(=O)C1=NC=C(C=C1N(COC)S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl)C1=CC=CC=C1 | C22H18Cl2F3N3O4S
reactant | HCl | 4N | Cl | ClH
solvent | water | 1.0 mL | O | H2O
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
product | 5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carboxylic acid N-methyl-N-phenylamide | CN(C(=O)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl)C1=CC=CC=C1 | C20H14Cl2F3N3O3S
